US05558971
Using p-tert-butoxystyrene (83.7 g, 0.475 mole) and p-chlorostyrene (3.5 g, 0.025 mole), the polymerization and the treatment were carried out in the same manner as described in Synthesis Example 1, (1), to give 75.9 g of poly(p-tert-butoxystyrene/p-chlorostyrene) as white powder having Mw 22000 (GPC with polystyrene calibration). The polymer was found to have p-tert-butoxystyrene unit and p-chlorostyrene unit in a molar ratio) of ca. 95:5 based on 1HNMR.

reactant | p-tert-butoxystyrene | 0.475 mole, 83.7 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | p-chlorostyrene | 0.025 mole, 3.5 g | ClC1=CC=C(C=C)C=C1 | C8H7Cl
product | p-tert-butoxystyrene p-chlorostyrene | C(C)(C)(C)OC1=CC=C(C=C)C=C1.ClC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O.C8H7Cl/c1-5-10-6-8-11(9-7-10)13-12(2,3)4;1-2-7-3-5-8(9)6-4-7/h5-9H,1H2,2-4H3;2-6H,1H2
